US07566724B2
In the same manner as in Reference Example 22, N-(4-iodophenyl)pyrimidin-2-amine (300 mg) and 4-bromomethylpyridine hydrobromide (307 mg) were reacted in the presence of sodium hydride to obtain N-(4-iodophenyl)-N-((pyridin-4-yl)methyl)pyrimidin-2-amine (93 mg).

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 300 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | 4-bromomethylpyridine hydrobromide | 307 mg | Br.BrCC1=CC=NC=C1
reactant | sodium hydride | [H-].[Na+]
product | N-(4-iodophenyl)-N-((pyridin-4-yl)methyl)pyrimidin-2-amine | 93 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=CC=NC=C1 | C16H13IN4
